US04801593
Quinoline (40 g) was dissolved in dry ether (250 ml) and treated dropwise with a solution of phenyl lithium (160 ml of 1.88 m solution in benzene/ether). The mixture was stirred at room temperature for 18 hr., then washed with aqueous ammonium chloride solution (20% w/v 2×100 ml) and then water (2×100 ml). The aqueous phase was extracted with ether (2×100 ml) and the combined ether layers were dried (magnesium sulphate) and evaporated in vacuo to give an oil. Unreacted quinoline was removed from the product by distillation in vacuo (80°-90°/10-15 mm Hg). A portion of the residue was crystallised from industrial methylated spirit to afford 2-phenylquinoline m.pt. 84°-86° characterised by its nmr spectrum. The bulk of the product was also characterised by its nmr spectrum.

reactant | Quinoline | 40 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | phenyl lithium | 160 ml | C1(=CC=CC=C1)[Li]
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-phenylquinoline | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C=C1 | C15H11N
